US05073550
A mixture of 146 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[(2-iodoethoxy)imino]acetamido]-3-[[[2-(hydroxymethyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, 75 mg of 2,2-diphenyl-1,3-benzodioxol-5-sulphinic acid lithium salt and 24 mg of sodium hydrogen carbonate in 0.5 ml of N,N-dimethylformamide was stirred at 20° C. for 24 hours. The reaction mixture was treated with 5 ml of water and the pH of the mixture was lowered to 3 by the addition of 3N hydrochloric acid. The resulting precipitate was filtered off under suction, washed with a small amount of water and then dissolved in 4 ml of water with the addition of small amount of 2N sodium hydroxide solution. This solution, of pH 7.5, was applied to a MCI gel column (CHP20P) conditioned with 1% aqueous acetic acid and chromatographed according to the procedure described in Example 16. The fraction eluted with a 1:1 (v/v) water/acetonitrile mixture was concentrated in a vacuum and lyophilized. The lyophilizate was dissolved in 90% aqueous trifluoracetic acid and the solution was stirred at 20° C. for 20 minutes. The solvents were removed in a vacuum and the residue was partitioned between ethyl acetate and 2% sodium hydrogen carbonate solution. The aqueous phase was chromatographed according to the procedure described in Example 16. After concentration and lyophilization of the pure fractions, there was obtained (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[2-[(3,4-dihydroxyphenyl)-sulphonyl]ethoxy]imino]acetamido]-3-[[[2-(hydroxymethyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a white powder.

reactant | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[(2-iodoethoxy)imino]acetamido]-3-[[[2-(hydroxymethyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 146 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)CO)C)=N/OCCI | C22H22IN9O6S3
reactant | 2,2-diphenyl-1,3-benzodioxol-5-sulphinic acid lithium salt | 75 mg | [Li+].C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)S(=O)[O-])C2=CC=CC=C2
reactant | sodium hydrogen carbonate | 24 mg | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[2-[(3,4-dihydroxyphenyl)-sulphonyl]ethoxy]imino]acetamido]-3-[[[2-(hydroxymethyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)CO)C)=N/OCCS(=O)(=O)C2=CC(=C(C=C2)O)O | C28H27N9O10S4
